US06333336B1
a) Ethyl 4-chloro-3-phenyl-5-pyridinecarboxylate
A mixture of ethyl 1,4-dihydro-4-oxo-3-phenyl-5-pyridinecarboxylate (prepared from phenylacetyl chloride according to the procedures described in J. Org. Chem. 1978, 43, 2087-2088 and J. Heterocyclic Chem. 1980, 17, 359-368) (3.82 g, 15.7 mmol) and phosphorus oxychloride (50 ml) was heated at reflux overnight. The excess solvent was removed in vacuo. The residue was partitioned between ice-cold aqueous Na2CO3 and ethyl acetate, and the organic layer was evaporated in vacuo to afford 3.72 g (90%) of the title compound as a brown solid; 1H NMR (250 MHz, CDCl3) δ1.44 (3H, t, J 7.2 Hz), 4.47 (2H, q, J 7.2 Hz), 7.40-7.54 (5H, m), 8.62 (1H, s), 8.91 (1H, s); MS (ES+) m/z 262/264 [MH]30 .

reactant | ethyl 1,4-dihydro-4-oxo-3-phenyl-5-pyridinecarboxylate | O=C1C(=CNC=C1C(=O)OCC)C1=CC=CC=C1 | C14H13NO3
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 4-chloro-3-phenyl-5-pyridinecarboxylate | 3.72 g, 90% | ClC1=C(C=NC=C1C(=O)OCC)C1=CC=CC=C1 | C14H12ClNO2
